US05079260
N-[(9H-Fluoren-9-ylethoxy)carbonyl]-L-leucine
To a stirred solution of 6.63 g (15.6 mmol) of N-[(9H-fluoren-9-ylethoxy)carbonyl]-L-leucine tert-butyl ester in 10 mL of methylene chloride was added 10 mL of trifluoroacetic acid. The mixture was stirred for 2.5 h and solvent was removed at reduced pressure. The crude product was chromatographed on 150 g of flash silica gel eluting with 25% EtOAc in hexane followed by 50% EtOAc in hexane to afford 5.32 g (92%) of product as a white solid, mp 42°-43° C.

reactant | N-[(9H-fluoren-9-ylethoxy)carbonyl]-L-leucine tert-butyl ester | 15.6 mmol, 6.63 g | C(C)(C)(C)OC([C@@H](NC(=O)OCCC1C2=CC=CC=C2C=2C=CC=CC12)CC(C)C)=O | C26H33NO4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[(9H-Fluoren-9-ylethoxy)carbonyl]-L-leucine | 5.32 g, 92% | C1=CC=CC=2C3=CC=CC=C3C(C12)CCOC(=O)N[C@@H](CC(C)C)C(=O)O | C22H25NO4
